US06964961B2
B. (+/−)-Dimethylsulfamic acid methyl{1-[7-(2-methyl-1H-indol-5-ylamino)-thieno[3,2-b]pyridine-2-carbonyl]-pyrrolidin-3-yl}-amide
The title compound was prepared from (+/−)-dimethylsulfamic acid methyl-{1-[7-chloro-thieno[3,2-b]pyridine-2-carbonyl]-pyrrolidin-3-yl}-amide and 2-methyl-1H-indol-5-ylamine by a procedure analogous to Example 1C. MS: 513 (MH+); HPLC Rf: 4.76 min.; HPLC purity 92%.

reactant | (+/−)-dimethylsulfamic acid methyl-{1-[7-chloro-thieno[3,2-b]pyridine-2-carbonyl]-pyrrolidin-3-yl}-amide | CN(S(N(C)C)(=O)=O)C1CN(CC1)C(=O)C1=CC2=NC=CC(=C2S1)Cl | C15H19ClN4O3S2
reactant | 2-methyl-1H-indol-5-ylamine | CC=1NC2=CC=C(C=C2C1)N | C9H10N2
product | (+/−)-Dimethylsulfamic acid methyl{1-[7-(2-methyl-1H-indol-5-ylamino)-thieno[3,2-b]pyridine-2-carbonyl]-pyrrolidin-3-yl}-amide | CN(S(N(C)C)(=O)=O)C1CN(CC1)C(=O)C1=CC2=NC=CC(=C2S1)NC=1C=C2C=C(NC2=CC1)C | C24H28N6O3S2
